US04845079
2(S)-t-Butyloxycarbonylamino-1-cyclohexylbut-3-ene
A 0° C. solution of potassium hexamethyldisilazide (22.9 mmol in 115 mL of 5:1, tetrahydrofuran (THF): dimethyl sulfoxide (DMSO) was added dropwise to triphenylmethylphosphonium iodide (24.81 mmol). After stirring at 0° C. for 1 hour, the solution was cooled to -78° C. and a solution of Boc-cyclohexylalaninal [4.90 g, 19.08 mmol, prepared by Swern oxidation (Mancuso, A.J.; Huang,, S.-L.; and Swern, D., J. Org. Chem. 1978, 43, 2480) of Boc-cyclohexylalaninol] in dry THF (95 mL) was added. After stirring at -78° C. for 1 hour, the mixture was allowed to warm to room temperature. The reaction mixture was quenched with aqueous ammonium chloride and extracted with ether (2×300 mL). The combined organic phase was washed with 10% HCl (200 mL), saturated NaHSO3 (2×200 mL), H2O (2×200 mL), saturated NaHCO3 (2×200 mL), and brine (200 mL), dried (MgSO4 ), filtered, and evaporated. The residue was purified by chromatography (40 m SiO2 ; ether:hexane, 15:85) to give the desired compound in 60% yield. Mass spectrum (M+H)+ =254.

reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | triphenylmethylphosphonium iodide | 24.81 mmol | [I-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | Boc-cyclohexylalaninal | 19.08 mmol, 4.90 g | C(=O)(OC(C)(C)C)N([C@@H](C)C=O)C1CCCCC1 | C14H25NO3
reactant | Boc-cyclohexylalaninol | C(=O)(OC(C)(C)C)N([C@@H](C)CO)C1CCCCC1 | C14H27NO3
solvent | THF | 95 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2(S)-t-Butyloxycarbonylamino-1-cyclohexylbut-3-ene | 60% yield | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)C=C | C15H27NO2
